US06391887B1
4-Amino-8-nitro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
As described for Example 4, 8-nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (100 mg, 0.40 mmol) is reacted with 7N methanolic ammonia solution (15 ml) to form 70 mg (76%) of product.

reactant | 8-nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.40 mmol, 100 mg | [N+](=O)([O-])C1=CC=2C3C(C(NC2C=C1)=S)CCC3 | C12H12N2O2S
reactant | ammonia | 7N, 15 ml | N | H3N
product | 4-Amino-8-nitro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 70 mg, 76% | NC1=NC=2C=CC(=CC2C2C1CCC2)[N+](=O)[O-] | C12H13N3O2
